US05436264
5-Chloro-3-(dimethylaminomethyl)-1H-indole (10.6 g, 50.5 mmol), prepared as in Example 2, Step (a) and powdered sodium hydroxide (3.0 g, 75.0 mmol) were combined in 2-nitropropane (80 mL, 890.8 mmol) and the mixture was stirred at 120° C. and under nitrogen for 20 hours. The mixture was cooled, acidified with 10% acetic acid (80 mL), stirred at room temperature for 1 hour, and then extracted into ether. The organic phase was separated, washed with water and then brine, dried over magnesium sulfate, and evaporated. Filtration of the residue through a short column of silica gel gave 3-(2,2-dimethyl-2-nitroethyl)-5-chloro-1H-indole (13.5 g, 53.1 mmol) as a yellow oil.

reactant | 5-Chloro-3-(dimethylaminomethyl)-1H-indole | 50.5 mmol, 10.6 g | ClC=1C=C2C(=CNC2=CC1)CN(C)C | C11H13ClN2
reactant | sodium hydroxide | 75.0 mmol, 3.0 g | [OH-].[Na+]
reactant | 2-nitropropane | 890.8 mmol, 80 mL | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 3-(2,2-dimethyl-2-nitroethyl)-5-chloro-1H-indole | 53.1 mmol, 13.5 g | CC(CC1=CNC2=CC=C(C=C12)Cl)([N+](=O)[O-])C | C12H13ClN2O2
